US05231101
Toluene (40 ml) was added to 1 g of 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine to dissolve the latter, followed by the addition of 0.52 g of triethylamine and 1.92 g of ethyl chloroformate. The resulting mixture was refluxed for 2.5 hours. The mixture was cooled and washed with water. The organic layer was dried over anhydrous Na2SO4 and then filtered. The filtrate was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column. The substance eluted with chloroform was recrystallized from n-hexane, whereby 0.89 g of 8-cyano-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine was obtained (yield: 75%).

reactant | Toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | 8-cyano-11-(1-methyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 1 g | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C)C1 | C21H21N3
reactant | ethyl chloroformate | 1.92 g | ClC(=O)OCC | C3H5ClO2
solvent | triethylamine | 0.52 g | C(C)N(CC)CC | C6H15N
product | 8-cyano-11-(1-ethoxycarbonyl-4-piperidylidene)-6,11-dihydro-5H-benzo[5,6]cyclohepta[1,2-b]pyridine | 0.89 g, yield: 75% | C(#N)C=1C=CC2=C(CCC=3C(=NC=CC3)C2=C2CCN(CC2)C(=O)OCC)C1 | C23H23N3O2
